US07915415B2
Step 1: Synthesis of 2-(n-hexyl)-6-aminophenanthridine
13.1 g (69.8 mmol) 2-(1,3,2-dioxaborinan-2-yl)benzonitrile, 16.3 g (63.4 mmol) 2-bromo-4-hexylaniline, 1.62 g (1.40 mmol) tetrakis(triphenylphosphine) palladium(0), and 23.6 g (171 mmol) potassium carbonate where refluxed in 250 ml toluene and 100 ml EtOH under N2 atmosphere for 20 hours. HPLC and TLC revealed almost complete consumption of the aniline. The reaction mixture was cooled and passed through a filter. The solids were washed with ethyl acetate to remove organics from the collected base. The filtrate was then evaporated down and dried on silica. The sample was purified using silica gel chromatography with 100% ethyl acetate as the eluent. The product fractions were then evaporated down to a minimal amount and hexanes added to crystallize the product as off white solids (7.05 g, 39.8% yield, GC-MS confirmed).

reactant | 2-(1,3,2-dioxaborinan-2-yl)benzonitrile | 69.8 mmol, 13.1 g | O1B(OCCC1)C1=C(C#N)C=CC=C1 | C10H10BNO2
reactant | 2-bromo-4-hexylaniline | 63.4 mmol, 16.3 g | BrC1=C(N)C=CC(=C1)CCCCCC | C12H18BrN
reactant | potassium carbonate | 171 mmol, 23.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOH | 100 ml | CCO | C2H6O
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine) palladium(0) | 1.40 mmol, 1.62 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-(n-hexyl)-6-aminophenanthridine | 39.8% yield | C(CCCCC)C1=CC2=C3C=CC=CC3=C(N=C2C=C1)N | C19H22N2
